US04374843
A solution of 1.0 g (7.24 mmol) of 5-acetyl-2,4-dimethylimidazole in 15 ml of concentrated hydrobromic acid was warmed to 50° and 1.16 g (7.25 mmol) of bromine was added dropwise over 1 minute. The mixture was then heated at 50°-60° for 1 hour. The mixture was concentrated and the solid residue was triturated with 30 ml of saturated sodium bicarbonate solution. The insoluble material was collected by filtration, washed with water, and dried in vacuo to give 1.12 g (71%) of 1-(2,4-dimethyl-5-imidazolyl)-2-bromoethanone as a white solid, mp 128°-132°. nmr (D6DMSO) (δ): 4.40 (s, 2H); 2.27 (s, 3H); 2.13 (s, 3H).

reactant | 5-acetyl-2,4-dimethylimidazole | 7.24 mmol, 1.0 g | C(C)(=O)C1=C(N=C(N1)C)C | C7H10N2O
reactant | bromine | 7.25 mmol, 1.16 g | BrBr | Br2
solvent | hydrobromic acid | 15 ml | Br | BrH
product | 1-(2,4-dimethyl-5-imidazolyl)-2-bromoethanone | 1.12 g, 71% | CC=1NC(=C(N1)C)C(CBr)=O | C7H9BrN2O
